US05693655
A solution of 3.6 g of 3-[1-(4-(5-methoxycarbonylindol-3-yl)butyl)-4-piperidyl]indole in 40 ml of THF is added dropwise to a suspension of 0.6 g of lithium aluminum hydride in 20 ml of THF with stirring. The mixture is then stirred for a further hour at 25°, 20 ml of dilute sodium hydroxide solution are added, the mixture is filtered and the filtrate is worked up in a conventional manner. 3-[1-(4-(5-hydroxymethylindol-3-yl)butyl)-4-piperidyl]indole is obtained.

reactant | 3-[1-(4-(5-methoxycarbonylindol-3-yl)butyl)-4-piperidyl]indole | 3.6 g | COC(=O)C=1C=C2C(=CNC2=CC1)CCCCN1CCC(CC1)C1=CNC2=CC=CC=C12 | C27H31N3O2
reactant | lithium aluminum hydride | 0.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 3-[1-(4-(5-hydroxymethylindol-3-yl)butyl)-4-piperidyl]indole | OCC=1C=C2C(=CNC2=CC1)CCCCN1CCC(CC1)C1=CNC2=CC=CC=C12 | C26H31N3O
